### PR TITLE
[Merged by Bors] - feat(Rat): `(q₁ + q₂).den ∣ q₁.den.lcm q₂.den`

### PR DESCRIPTION
**Pull request by jhanschoo**
add a useful theorem `Rat.add_den_dvd_lcm` that claims that the denominator of the addition of two rational numbers divides the LCM of the denominators of its terms. A stronger result than `Rat.add_den_dvd` that is already present, which still remains useful in many cases.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks! Some suggestions to match mathlib style more closely below

File: Mathlib/Data/Rat/Lemmas.lean [hunk 1]
```diff
@@ -63,6 +63,21 @@ theorem den_mk (n d : ℤ) : (n /. d).den = if d = 0 then 1 else d.natAbs / n.gc
...
+    ← Nat.gcd_mul_lcm,
+    mul_dvd_mul_iff_right (Nat.lcm_ne_zero (Rat.den_ne_zero _) (Rat.den_ne_zero _)),
+    Nat.dvd_gcd_iff]
+  constructor
+  · rw [← Int.natCast_dvd_natCast, Int.dvd_natAbs]
+    apply Int.dvd_add
+      <;> apply dvd_mul_of_dvd_right <;> rw [Int.natCast_dvd_natCast]
+      <;> [exact Nat.gcd_dvd_right _ _; exact Nat.gcd_dvd_left _ _]
+  · exact dvd_mul_right _ _
+
```
Comment (b-mehta) [inline Mathlib/Data/Rat/Lemmas.lean:80]:
```suggestion
  rw [add_def, normalize_eq, Nat.div_dvd_iff_dvd_mul (Nat.gcd_dvd_right _ _)
    (Nat.gcd_ne_zero_right (by simp)), ← Nat.gcd_mul_lcm,
    mul_dvd_mul_iff_right (Nat.lcm_ne_zero (by simp) (by simp)), Nat.dvd_gcd_iff]
  refine ⟨?_, dvd_mul_right _ _⟩
  rw [← Int.natCast_dvd_natCast, Int.dvd_natAbs]
  apply Int.dvd_add
    <;> apply dvd_mul_of_dvd_right <;> rw [Int.natCast_dvd_natCast]
    <;> [exact Nat.gcd_dvd_right _ _; exact Nat.gcd_dvd_left _ _]

```

you can shorten the proof using the `simp` tactic!

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
